US04714762
A solution of 48.9 g (0.4 mol) of 4-hydroxybenzaldehyde in 600 ml of dimethylformamide was stirred under a nitrogen atmosphere. Sodium hydride (31.2 g; 0.44 mol) was added to the stirring solution over 45 minutes. The temperature of the reaction mixture was maintained at 35°-40° during the addition, and stirring was continued for an additional 45 minutes at room temperature. Methyl 5-bromo-2,2-dimethylpentanoate (98.1 g; 0.44 mol), was added dropwise over 20 minutes. The reaction temperature was maintained at 40° during the addition. After addition was complete, the temperature was raised to 65° C. and stirring was continued at 65° C. for 31/2 hours. After standing overnight, the dimethylformamide was removed on a rotary evaporator and the residue was taken up in water and ether. The aqueous layer was extracted a second time with ether and the combined extracts were washed, dried, and concentrated under reduced pressure. The residue was triturated two times with n-heptane. The heptane insoluble oil was distilled via a short path apparatus to give methyl 5-[4-formylphenoxy)-2,2-dimethyl-pentanoate: bp 143°-144° C. at 0.03 mm of Hg; yield 39.4 g (37%). Additional analytically pure product was obtained from the heptane extract: 32.3 g (31%). Anal. Calcd. for C15H20O4 :

reactant | 4-hydroxybenzaldehyde | 0.4 mol, 48.9 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Sodium hydride | 0.44 mol, 31.2 g | [H-].[Na+]
reactant | Methyl 5-bromo-2,2-dimethylpentanoate | 0.44 mol, 98.1 g | BrCCCC(C(=O)OC)(C)C | C8H15BrO2
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | methyl 5-[4-formylphenoxy)-2,2-dimethyl-pentanoate | C(=O)C1=CC=C(OCCCC(C(=O)OC)(C)C)C=C1 | C15H20O4
